US04261996
4,9-Dihydro-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide.
A mixture of 4,9-dihydro-9-oxo-pyrazolo[5,1-b]-quinazoline-2-carboxylic acid (5 g; 0.022 mole), thionyl chloride (250 ml) and four drops of pyridine is stirred at room temperature for 24 hrs. The reaction mixture is evaporated to dryness under reduced pressure in a water bath at 30°-40° C. The residue is treated with cold (0° C.) concentrated ammonium hydroxide solution (200 ml) and allowed to come to room temperature. The product is filtered off, washed with ether and used in the next step without further purification. Yield 3.2 g; mp 315°-325° C. An analytical sample, recrystallized from dimethylformamide, melts at 335°-340° C. By the same procedure, starting with the corresponding 7-fluoro compound, the product obtained is 4,9-dihydro-7-fluoro-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide.

reactant | 4,9-dihydro-9-oxo-pyrazolo[5,1-b]-quinazoline-2-carboxylic acid | 0.022 mole, 5 g | O=C1N2C(NC=3C=CC=CC13)=CC(=N2)C(=O)O | C11H7N3O3
reactant | 4,9-dihydro-7-fluoro-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide | FC1=CC=2C(N3C(NC2C=C1)=CC(=N3)C(=O)N)=O | C11H7FN4O2
catalyst | pyridine | four drops | N1=CC=CC=C1 | C5H5N
solvent | thionyl chloride | 250 ml | S(=O)(Cl)Cl | Cl2OS
product | 4,9-Dihydro-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide | O=C1N2C(NC=3C=CC=CC13)=CC(=N2)C(=O)N | C11H8N4O2
